US06635640B2
3-[5-Methyl-2-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic Acid
4-Piperidin-4-yl-1,3-dihydroindol-2-one (45 mg, 0.2 mmol) was condensed with 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid (42 mg, 0.23 mmol) to give the title compound.

reactant | 4-Piperidin-4-yl-1,3-dihydroindol-2-one | 0.2 mmol, 45 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 3-(2-formyl-5-methyl-1H-pyrrol-3-yl)-propionic acid | 0.23 mmol, 42 mg | C(=O)C=1NC(=CC1CCC(=O)O)C | C9H11NO3
product | 3-[5-Methyl-2-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic Acid | CC1=CC(=C(N1)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O)CCC(=O)O | C22H25N3O3
